US08623859B2
4-Methoxy-N,2,6-trimethyl-N-[(5-{[4-(quinolin-3-ylmethyl)piperazin-1-yl]carbonyl}-1,3,4-oxadiazol-2-yl)methyl]benzenesulfonamide
The title compound was prepared according to general procedure CD using 4-methoxy-N,2,6-trimethyl-N-{[5-(piperazin-1-ylcarbonyl)-1,3,4-oxadiazol-2-yl]methyl}benzenesulfonamide (42 mg, 0.10 mmol), quinoline-3-carbaldehyde (18 mg, 0.12 mmol), STAB (42 mg, 0.2 mmol) DCE (0.8 mL) and a few 4 Å molecular sieves. The crude product was purified using prep method D.

reactant | 4-methoxy-N,2,6-trimethyl-N-{[5-(piperazin-1-ylcarbonyl)-1,3,4-oxadiazol-2-yl]methyl}benzenesulfonamide | 0.10 mmol, 42 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC=1OC(=NN1)C(=O)N1CCNCC1)C)C | C18H25N5O5S
reactant | quinoline-3-carbaldehyde | 0.12 mmol, 18 mg | N1=CC(=CC2=CC=CC=C12)C=O | C10H7NO
reactant | DCE | 0.2 mmol, 0.8 mL, 42 mg | ClCCCl | C2H4Cl2
product | 4-Methoxy-N,2,6-trimethyl-N-[(5-{[4-(quinolin-3-ylmethyl)piperazin-1-yl]carbonyl}-1,3,4-oxadiazol-2-yl)methyl]benzenesulfonamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC=1OC(=NN1)C(=O)N1CCN(CC1)CC=1C=NC2=CC=CC=C2C1)C)C | C28H32N6O5S
